US08026318B2
Preparation of MPCA-MIBK Reductive Alkylate
An amount of 20.5 grams 10% Pd/C catalyst (50% wet) (3 wt % based on MPCA+MIBK) was charged to a one liter SS reactor, followed by 149.8 grams (0.48 m) MPCA dissolved in 165.75 grams (1.66 m) methyl isobutyl ketone (MIBK). The reactor was purged three times and leak checked with N2, then purged three times and leak checked with H2. The reaction mix was heated to 90° C. and charged with 100 psi H2 connected to a H2 ballast tank. The reaction was allowed to proceed 22 hours then the H2 pressure raised to 800 psi and allowed to proceed an additional 5 hours. The crude reaction mixture was then filtered through 0.5 μm filter using a pressure filter apparatus, followed by removal of excess MIBK by vacuum evaporation. The GC analysis shown below in Table I indicated alkylation had occurred, and the amine titration showed 5.58 meg/g (AEW 179.2 g/eqv). The AEW indicates an alkylation level of (67/86) 0.78 per nitrogen.

reactant | MPCA | 149.8 grams | CN1CCC(CC1)OC(=O)C(OC2=CC=C(C=C2)Cl)OC3=CC=C(C=C3)Cl | C20H21Cl2NO4
reactant | methyl isobutyl ketone | 165.75 grams | C(C(C)C)C(=O)C | C6H12O
catalyst | Pd/C | 20.5 grams | [Pd] | Pd
product | MPCA MIBK | CN1CCC(CC1)OC(=O)C(OC2=CC=C(C=C2)Cl)OC3=CC=C(C=C3)Cl.CC(C)CC(=O)C | InChI=1S/C20H21Cl2NO4.C6H12O/c1-23-12-10-18(11-13-23)25-19(24)20(26-16-6-2-14(21)3-7-16)27-17-8-4-15(22)5-9-17;1-5(2)4-6(3)7/h2-9,18,20H,10-13H2,1H3;5H,4H2,1-3H3
